US07781426B2
Fuming nitric acid (5 mL) was cooled to 0° C. and 3-(trifluoromethoxy)benzyl bromide (1 mL, 6.16 mmol) was added. After 15 minutes, the reaction was poured into ice water (100 mL) and extracted with EtOAc (200 mL). The organic layer was washed with water, saturated NaHCO3, and brine (75 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 15% EtOAc/hexanes) afforded 2-(bromomethyl)-1-nitro-4-(trifluoromethoxy)benzene Rf=0.54 (15% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 8.14 (d, J=8.9 Hz, 1H), 7.43 (m, 1H), 7.31 (m, 1H), 4.82 (s, 2H).

reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-(trifluoromethoxy)benzyl bromide | 6.16 mmol, 1 mL | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 2-(bromomethyl)-1-nitro-4-(trifluoromethoxy)benzene | BrCC1=C(C=CC(=C1)OC(F)(F)F)[N+](=O)[O-] | C8H5BrF3NO3
